US08980322B2
2-Methoxyethyl 2-(methylamino)ethyl Carbonate Hydrochloride
To a mixture of tert-butyl 2-hydroxyethyl(methyl)carbamate (1.75 g) obtained in Reference Example 1 and ethyl acetate (20 mL) was added pyridine (1.62 mL) and a solution (5 mL) of 2-methoxyethyl chlorocarbonate (2.77 g) in ethyl acetate was dropwise added slowly, and the mixture was stirred overnight at room temperature. After concentration of the reaction mixture under reduced pressure, water (50 mL) was added, and the mixture was extracted with ethyl acetate (50 mL). The extract was washed with 5% aqueous citric acid solution (50 mL) and saturated brine (50 mL), and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, the residue was dissolved in diethyl ether (2 mL), and a 4N hydrogen chloride—ethyl acetate solution (5 mL) was added. After stirring at room temperature for 30 min., diethyl ether (10 mL) was added, and the mixture was stirred overnight. The precipitated solid was collected by filtration, and dried under reduced pressure to give the title compound (1.56 g) as a white solid.

reactant | tert-butyl 2-hydroxyethyl(methyl)carbamate | 1.75 g | OCCN(C(OC(C)(C)C)=O)C | C8H17NO3
reactant | pyridine | 1.62 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-methoxyethyl chlorocarbonate | 5 mL, 2.77 g | C(OCCOC)(=O)Cl | C4H7ClO3
reactant | water | 50 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-Methoxyethyl 2-(methylamino)ethyl Carbonate Hydrochloride | 1.56 g | Cl.C(OCCOC)(OCCNC)=O | InChI=1S/C7H15NO4.ClH/c1-8-3-4-11-7(9)12-6-5-10-2;/h8H,3-6H2,1-2H3;1H
